US08669234B2
Sodium triacetoxyborohydride (2.08 g, 9.86 mmol) was added to a solution of 5-formyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester (891 mg, 3.29 mmol) and glycine t-butyl ester (1.65 g, 9.86 mmol) in dichloromethane (20 mL) over 2 minutes—a small amount of gas evolution was observed. After 1 hour the reaction was quenched with saturated ammonium chloride (5 mL). The mixture was extracted with ethyl acetate (3×25 mL). The combined organic phases were dried over sodium sulfate, filtered and the solvent was removed under reduced pressure. The resulting residue was purified by flash chromatography with methanol and dichloromethane as the eluant at a gradient of 0-10%. The fractions containing product were combined and the solvent was removed under reduced pressure to provide 5-[(tert-butoxycarbonylmethyl-amino)-methyl]-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester (601 mg, 1.55 mmol, 47%). C19H34N2O6 calculated 386.2, observed [M+1]+ 387.2; rt=1.61 min.

reactant | Sodium triacetoxyborohydride | 9.86 mmol, 2.08 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 5-formyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | 3.29 mmol, 891 mg | CCOC(=O)C1N(C(CC1)C=O)C(=O)OC(C)(C)C | C13H21NO5
reactant | glycine t-butyl ester | 9.86 mmol, 1.65 g | C(C)(C)(C)OC(CN)=O | C6H13NO2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 5-[(tert-butoxycarbonylmethyl-amino)-methyl]-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | 1.55 mmol, 601 mg, 47% | CCOC(=O)C1N(C(CC1)CNCC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C19H34N2O6
